US06355648B1
A solution of 3-ethyl-indol-2-one (16 g, 0.1 mol) in dry THF (200 ml) under N2 was cooled to −25° C. and treated drop wise with n-butyllithium (2.5M in hexanes, 80 ml, 0.2 mol). To the resulting solution was added N,N,N′,N′-tetramethylethylenediamine (30 ml, 0.2 mol). After 30 min. iodoethane (8 ml, 0.1 mol) was added and the reaction mixture was allowed to warm to RT and stirred over night. The reaction mixture was poured into an aqueous NH4Cl solution, extracted with EtOAc (2×) and the combined organic layers were washed with dil. HCl, water, brine, dried (MgSO4) and concentrated. The residual oil was triturated with hexane to afford 3,3-diethylindol-2-one (9 g, 45%), m.p. 156-159° C.; 1H NMR (DMSO-d6) δ 10.44 (s,1H), 7.70-7.69 (t,1H), 7.62-7.59 (m, 1H), 7.58 (d,1H, J=1.7 Hz), 7.53-7.50 (m, 1H), 7.45-7.41 (t,1H), 7.36-7.35 (m,1H), 7.34-7.33 (m,1H), 6.91-6.89 (d,1H J=8.2 Hz), 1.87-1.80 (m,2H), 1.77-1.70 (m, 2H), 0.54-0.50 (t, 6H); MS (+ESI) m/z 190 (M+H).

reactant | 3-ethyl-indol-2-one | 0.1 mol, 16 g | C(C)C=1C(N=C2C=CC=CC12)=O | C10H9NO
reactant | n-butyllithium | 0.2 mol, 2.5M, 80 ml | C(CCC)[Li]
reactant | N,N,N′,N′-tetramethylethylenediamine | 0.2 mol, 30 ml | CN(CCN(C)C)C | C6H16N2
reactant | iodoethane | 0.1 mol, 8 ml | ICC | C2H5I
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 3,3-diethylindol-2-one | 9 g, 45% | C(C)C1(C(NC2=CC=CC=C12)=O)CC | C12H15NO
